US06506901B2
Step B: 1-(4-Nitro-benzenesulfonyl)-piperidine-4-carbaldehyde
A mixture of 1-hydroxy-1,2-benziodooxol-3(1H)-one-1-oxide (IBX) (8.73 g, 3.12 mmol) in DMSO (30 mL) and THF (15 mL) was stirred at room temperature over a period of 20 minutes. In one portion [1-(4-Nitro-benzenesulfonyl)-piperidin-4-yl]-methanol (4.69 g, 15.6 mmol) was added and the solution heated to 50° C. Water was added to the reaction until a white precipitate formed. The reaction mixture was filtered and washed with ethyl acetate. The filtrate was partitioned with ethyl acetate and water. The organic phase was dried (sodium sulfate) and concentrated in vacuo to give 4.32 g of the product as a tan solid

reactant | [1-(4-Nitro-benzenesulfonyl)-piperidin-4-yl]-methanol | 15.6 mmol, 4.69 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CO | C12H16N2O5S
reactant | Water | O | H2O
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(4-Nitro-benzenesulfonyl)-piperidine-4-carbaldehyde | 4.32 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C=O | C12H14N2O5S
